US05714496
A mixture of (±)-3-ethynyl-3-hydroxyquinuclidine (15.1 g) and butyric anhydride (60 ml) was stirred at 120° C. for 5 hours. The reaction mixture was cooled to ambient temperature, added to a saturated aqueous solution of sodium carbonate (1 l) and stirred for 3 hours. The mixture was extracted with diethyl ether (3×100 ml). The diethyl ether extracts were combined, washed with saturated aqueous sodium carbonate solution, dried (MgSO4) and evaporated to give (±)-3-ethynyl-3-butyryloxyquinuclidine as an oil, NMR(200 MHz, DMSOd6): 0.90(3H,t), 1.40(1H,m), 1.57(4H,m), 1.85(1H,m), 2.28(3H,m), 2.66(4H,m), 3.03(1H,d), 3.18(1H,d) and 3.55(1H,s).

reactant | (±)-3-ethynyl-3-hydroxyquinuclidine | 15.1 g | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | sodium carbonate | 1 l | C([O-])([O-])=O.[Na+].[Na+]
reactant | butyric anhydride | 60 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | (±)-3-ethynyl-3-butyryloxyquinuclidine | C(#C)C1(CN2CCC1CC2)OC(CCC)=O | C13H19NO2
